US07745641B2
In a similar manner to Step 1 of Example 149, 4-hydroxy-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone (150 mg, 0.382 mmol) was dissolved in THF (7.5 mL), and the solution was treated with triphenylphosphine (200 mg, 0.764 mmol), tert-butyl N-(3-hydroxypropyl)carbamate (134 mg, 0.764 mmol) and 40% DEAD-toluene solution (0.348 mL), followed by purification by flash column chromatography (chloroform/methanol=100/0 to 95/5) to obtain 4-[3-(tert-butoxycarbonylamino)propoxy]-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone (208 mg, yield 99%).

reactant | 4-hydroxy-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone | 0.382 mmol, 150 mg | OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)C=O)C(=O)OC(C)(C)C)=O | C22H20N2O5
reactant | triphenylphosphine | 0.764 mmol, 200 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tert-butyl N-(3-hydroxypropyl)carbamate | 0.764 mmol, 134 mg | OCCCNC(OC(C)(C)C)=O | C8H17NO3
reactant | DEAD toluene | 0.348 mL | CCOC(=O)/N=N/C(=O)OCC.C1(=CC=CC=C1)C
solvent | THF | 7.5 mL | C1CCOC1 | C4H8O
product | 4-[3-(tert-butoxycarbonylamino)propoxy]-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone | 208 mg, yield 99% | C(C)(C)(C)OC(=O)NCCCOC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)C=O)C(=O)OC(C)(C)C)=O | C30H35N3O7
